US08865909B2
Synthesis of (Z)-ethyl 2-(5-decylidene-2,4-dioxothiazolidin-3-yl)acetate (TZD10EA)
TZD10EA was prepared according to General Procedure A2 presented hereinabove using (Z)-5-decylidenethiazolidine-2,4-dione and ethyl 2-bromoacetate as reactants.

reactant | (Z)-5-decylidenethiazolidine-2,4-dione | C(/CCCCCCCCC)=C/1\C(NC(S1)=O)=O | C13H21NO2S
reactant | ethyl 2-bromoacetate | BrCC(=O)OCC | C4H7BrO2
product | (Z)-ethyl 2-(5-decylidene-2,4-dioxothiazolidin-3-yl)acetate | C(/CCCCCCCCC)=C/1\C(N(C(S1)=O)CC(=O)OCC)=O | C17H27NO4S
